US06358971B1
2-Amino-3-(2,3,4,5,6-pentafluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine
The 2-trifluoroacetamido-3-(2,3,4,5,6-pentafluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine (5.03 g, 10.1 mmol) was converted to product in a manner substantially analogous to Example 67 to yield 3.79 g. (93.3%). EA, MS(FD).

reactant | 2-trifluoroacetamido-3-(2,3,4,5,6-pentafluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | 10.1 mmol, 5.03 g | FC(C(=O)NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C22H9F8N3O2
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-Amino-3-(2,3,4,5,6-pentafluorophenyl)-6-benzoyl-imidazo[1,2-a]pyridine | NC=1N=C2N(C=C(C=C2)C(C2=CC=CC=C2)=O)C1C1=C(C(=C(C(=C1F)F)F)F)F | C20H10F5N3O
